US06107329
(S)-1-(2-Amino-3-phenyl-propionyl)-pyrrolidin-3-one hydrochloride
(S)-[1-Benzyl-2-oxo-2-(3-oxo-pyrrolidin-1-yl)-ethyl]-carbamic acid tert-butyl ester (552 mg, 1.7 mmol) was dissolved in 4M HCl-dioxane (6.2 mL) at 0° C. The mixture was stirred at 25° C. for 1 hour, concentrated and the residue triturated with ether to give alight brown solid. Yield, 482 mg, 108%.

reactant | (S)-[1-Benzyl-2-oxo-2-(3-oxo-pyrrolidin-1-yl)-ethyl]-carbamic acid tert-butyl ester | 1.7 mmol, 552 mg | C(C)(C)(C)OC(N[C@H](C(N1CC(CC1)=O)=O)CC1=CC=CC=C1)=O | C18H24N2O4
reactant | HCl dioxane | 4M, 6.2 mL | Cl.O1CCOCC1
product | (S)-1-(2-Amino-3-phenyl-propionyl)-pyrrolidin-3-one hydrochloride | Cl.N[C@H](C(=O)N1CC(CC1)=O)CC1=CC=CC=C1 | InChI=1S/C13H16N2O2.ClH/c14-12(8-10-4-2-1-3-5-10)13(17)15-7-6-11(16)9-15;/h1-5,12H,6-9,14H2;1H/t12-;/m0./s1
